US06071921
Thionyl chloride (1.41 ml, 19 mmol) was slowly added to a solution of 2-(2-hydroxyethylthio)-1-methylimidazole (1.81 g, 11 mmol) in trichloromethane (20 ml) at 5° C. The mixture was stirred for 1 hour at 5° C. and then for 3 hours at ambient temperature. The volatiles were removed by evaporation and the residue azeotroped with toluene to give 2-(2-chloroethylthio)-1-methylimidazole hydrochloride (1.5 g, 77%).

reactant | Thionyl chloride | 19 mmol, 1.41 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-hydroxyethylthio)-1-methylimidazole | 11 mmol, 1.81 g | OCCSC=1N(C=CN1)C | C6H10N2OS
solvent | trichloromethane | 20 ml | ClC(Cl)Cl | CHCl3
product | 2-(2-chloroethylthio)-1-methylimidazole hydrochloride | 1.5 g, 77% | Cl.ClCCSC=1N(C=CN1)C | InChI=1S/C6H9ClN2S.ClH/c1-9-4-3-8-6(9)10-5-2-7;/h3-4H,2,5H2,1H3;1H
